US05599829
A mixture of glycinamide hydrochloride (5.5 g), triethyl amine (5.05 g), 5-chloro-2-methoxyphenyl-isothiocyanate (9.95 g), and chloroform (500 mL) were heated at reflux for 3 hours. The mixture was then cooled to ambient temperature and washed with water (300 mL). The organic phase was separated. Precipitate formed upon standing. The solid was collected by filtration, washed with water, then with diethyl ether and air dried to give 2-[3-(5-chloro-2-methoxyphenyl)-thioureido]acetamide (12.8 g), m.p. 166°-169° C. (dec.). This compound was used without further purification for the preparation of the title compound.

reactant | glycinamide hydrochloride | 5.5 g | Cl.NCC(=O)N
reactant | triethyl amine | 5.05 g | C(C)N(CC)CC | C6H15N
reactant | 5-chloro-2-methoxyphenyl-isothiocyanate | 9.95 g | ClC=1C=CC(=C(C1)N=C=S)OC | C8H6ClNOS
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[3-(5-chloro-2-methoxyphenyl)-thioureido]acetamide | 12.8 g | ClC=1C=CC(=C(C1)NC(NCC(=O)N)=S)OC | C10H12ClN3O2S
